US05965563
5-(5-indanyl)-5-(pyrido[2,3-d]pyrimidin-4-yl) barbituric acid
A slurry of 4-chloro-pyrido[2,3-d]pyrimidine (1.656 g, 10 mM) and 5-(5-indanyl) barbituric acid (2.443 g, 10 mM) is stirred in an oil bath. The temperature is raised to 130° C. in a period of 15 min. Then the temperature is further increased from 130° C. to 170° C. During this period apparently a reaction occurs since the slurry solidifies. The resulting solid is maintained for further 10 min at about 170° C. Then the reaction mixture is cooled, triturated with sodium bicarbonate solution and hexane. The solid is filtered off, washed with water and dried under vacuum. The raw product is submitted to the next step without further purification.

reactant | 4-chloro-pyrido[2,3-d]pyrimidine | 10 mM, 1.656 g | ClC=1C2=C(N=CN1)N=CC=C2 | C7H4ClN3
reactant | 5-(5-indanyl) barbituric acid | 10 mM, 2.443 g | C1CCC2=CC(=CC=C12)C1C(NC(NC1=O)=O)=O | C13H12N2O3
product | 5-(5-indanyl)-5-(pyrido[2,3-d]pyrimidin-4-yl) barbituric acid | C1CCC2=CC(=CC=C12)C1(C(NC(NC1=O)=O)=O)C=1C2=C(N=CN1)N=CC=C2 | C20H15N5O3
